US07579368B2
To a stirring solution of 2-ethoxy-5-formyl-benzoic acid ethyl ester (1.0 g, 4.5 mmol) in 10 mL of dimethylformamide was added dropwise sulfamic acid (610.4 mg, 6.3 mmol) in 5 mL of water. After addition of sulfamic acid, sodium chlorite (737.2 mg, 8.2 mmol) in 5 mL of water was added dropwise. Reaction was allowed to stir for 2 h at room temperature. Reaction was diluted with brine and extracted with ethyl acetate. Organic extract was dried with anhydrous magnesium sulfate, filtered and concentrated in vacuo to give 4-ethoxy isopthalic acid 3-ethyl ester as a white solid (900 mg, 84%). LC-MS: 239.2 [(M+H)+].

reactant | 2-ethoxy-5-formyl-benzoic acid ethyl ester | 4.5 mmol, 1.0 g | C(C)OC(C1=C(C=CC(=C1)C=O)OCC)=O | C12H14O4
reactant | sulfamic acid | 6.3 mmol, 610.4 mg | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 8.2 mmol, 737.2 mg | Cl(=O)[O-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 5 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 4-ethoxy isopthalic acid 3-ethyl ester | 900 mg, 84% | C(C)OC(C=1C=C(C(=O)O)C=CC1OCC)=O | C12H14O5
